Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melena
 
Major Surgical or Invasive Procedure:
EGD with hemostasis

 
History of Present Illness:
___ with history of CAD s/p CABG, HFpEF, and lupus 
anticoagulant,
on ASA and clopidogrel, admitted for GI workup after episode of
melena on ___.

Had been feeling fine before having a "colossal" episode of
melena the night of ___, estimated to be about one gallon in
toilet bowl per patient. He felt tired and slept til noon the
next day, which is not normal, and went to his PCP office where
___ Hgb was 10.8; baseline appears to be in 13 range from ___.
Referred to ED. Has not had any episodes of melena in ED. No
abdominal pain, fever, chills, chest pain. Does have some 
dyspnea
and dizziness. Reports his PCP did ___ rectal exam with +melena.

In the ED:
vital signs were notable for:
Today 16:27 98 84 129/78 16 98% RA 
Today 18:28 98.4 111 ___ 99% RA 
Today 19:55 98.1 116 ___ 98% RA 

Labs were notable for: Hgb 9.2 -> 8.3, BUN 89, Cr 2.5 (b/l high
1s)

Patient was given: 40 IV Protonix 7pm, 12.5 carvedilol 9:15pm

Consults: GI. Added for EGD in AM.

Upon arrival to the floor, he has no complaints. Confirms no
bowel movements since last night. Gave the above history.

 
Past Medical History:
-Coronary artery disease s/p CABG in ___
-Congestive heart failure EF 50%
-Pulmonary hypertension
-Interstitial lung disease
-Lupus AC + (no hx of thrombus)
-mediastinitis
-psoriasis
-TIA in ___
-gout
-Hypertension
-Hyperlipidemia
-Chronic kidney disease
 
Social History:
___
Family History:
Mother: Heart disease
Father: MI age ___, bleeding ulcers
Siblings: Sister with obesity
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.2 ___
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera anicteric and without injection. PERRL. MMM.
NECK: JVP estimated 10 cm above RA at 45 degrees.
CARDIAC: normal rate, bigeminy. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No edema. DP pulses palpable bilaterally
SKIN: Warm.  No rash.
NEUROLOGIC: AOx3. moving all extremities with purpose

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1214)
    Temp: 98.0 (Tm 98.3), BP: 106/66 (100-126/58-76), HR: 79
(71-93), RR: 18 (___), O2 sat: 97% (96-98), O2 delivery: Ra,
Wt: 189 lb/85.73 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera anicteric and without injection. PERRL. MMM.
NECK: No gross abnormalities
CARDIAC: normal rate, bigeminy. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No edema. DP pulses palpable bilaterally
SKIN: Warm.  No rash.
NEUROLOGIC: AOx3. moving all extremities with purpose

 
Pertinent Results:
ADMISSION LABS:
___ 05:07PM BLOOD WBC-9.3 RBC-2.72* Hgb-9.2* Hct-29.6* 
MCV-109* MCH-33.8* MCHC-31.1* RDW-16.2* RDWSD-64.5* Plt ___
___ 05:07PM BLOOD Neuts-66.7 Lymphs-17.5* Monos-10.3 
Eos-3.1 Baso-0.6 NRBC-0.2* Im ___ AbsNeut-6.17* 
AbsLymp-1.62 AbsMono-0.95* AbsEos-0.29 AbsBaso-0.06
___ 05:07PM BLOOD ___ PTT-24.7* ___
___ 05:07PM BLOOD Glucose-124* UreaN-89* Creat-2.5* Na-143 
K-5.2 Cl-111* HCO3-18* AnGap-14
___ 05:07PM BLOOD Calcium-9.5 Phos-3.0 Mg-2.1
___ 05:07PM BLOOD Lactate-1.6

DISCHARGE LABS:
___ 04:50AM BLOOD WBC-7.1 RBC-2.42* Hgb-8.3* Hct-26.1* 
MCV-108* MCH-34.3* MCHC-31.8* RDW-16.3* RDWSD-63.4* Plt ___
___ 09:00PM BLOOD Neuts-62.6 ___ Monos-9.4 Eos-3.1 
Baso-0.5 NRBC-0.3* Im ___ AbsNeut-4.68 AbsLymp-1.67 
AbsMono-0.70 AbsEos-0.23 AbsBaso-0.04
___ 04:50AM BLOOD Glucose-105* UreaN-63* Creat-1.9* Na-146 
K-4.6 Cl-113* HCO3-21* AnGap-12
___ 04:50AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.1
___ 03:33AM BLOOD Lactate-1.1

IMAGING:
EGD: Normal mucosa in whole esophagus/stomach, blood at GE 
junction upon removal of endoscope.  Duodenal 2 cm mass, 3 mm 
overlying superficial bleeding ulcer. Epi/3 endoclips given for 
hemostasis.
 
Brief Hospital Course:
___ with history of CAD s/p CABG, HFpEF, and lupus anticoagulant 
admitted for GI workup after episode of melena on ___ with EGD 
___ that found superficial bleeding ulcer on known duodenal 
mass with clipping/hemostasis. H/H stable on discharge. Plavix 
held on discharge. 

ACUTE ISSUES:
=============
#Acute Upper GI Bleed ___ superficial ulcer on duodenal mass 
Pt had 1 episode of large volume melena on night of ___ and 
had associated fatigue and lightheadedness afterwards. Saw PCP 
who noted melena on rectal exam and anemia to 10 (b/l 13). Sent 
to ___ ED where he was hemodynamically stable and had no 
further episodes of melena. Never had abdominal pain. Started on 
IV PPI and Hgb downtrended to 7.3 while admitted; received 1 u 
pRBC with appropriate bump. GI performed an EGD which revealed a 
superficial ulceration on a known 2cm duodenal mass that was 
clipped/epi was used for hemostasis. Plavix was held given no 
known indication and to reduce bleeding risk. H/H stable at 
discharge. Will need follow-up EGD/EUS in ___ weeks.

___ on CKD
Cr increased on admission at 2.5 likely prerenal due to UGIB and 
poor perfusion. Pt has CKD at baseline with Crt 1.7. Returned to 
baseline s/p IV fluids and blood transfusion. 

CHRONIC ISSUES:
===============
#HTN: held carvedilol initially iso bleed then restarted after 
EGD, lisinopril held as above
#HFpEF: appears euvolemic, and likely with prerenal ___. held
carvedilol iso GIB then restarted
#CAD s/p CABG: continued ASA, held Plavix as above
#Antiphospholipid syndrome: continued ASA, held Plavix as above
#History of TIA: continue ASA, holding Plavix as above
#Gout: hold allopurinol I/s/o ___, restarting on discharge
#ILD: continued home pred, MMF, Bactrim

TRANSITIONAL ISSUES:
====================
[] PLAVIX HELD AT D/C: pt on DAPT on admission with no 
indication determined. Continued ASA given CAD history. Held 
Plavix to reduce bleeding risk. Can restart if you have another 
indication that was missed.
[] Continue high dose PPI as outpatient.
[] Ensure patient has repeat EGD/EUS in ___ weeks.
[] Follow-up with appropriate cancer screening for unintentional 
weight loss ~20 lbs in 1 month. 
[] Consider grief counseling for patient as needed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. Lisinopril 2.5 mg PO DAILY 
3. BuPROPion 150 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. Fish Oil (Omega 3) 4000 mg PO DAILY 
6. Carvedilol 12.5 mg PO BID 
7. Rosuvastatin Calcium 40 mg PO QPM 
8. Mycophenolate Mofetil 1000 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. flaxseed    oral DAILY 
11. Clopidogrel 75 mg PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
14. Cyanocobalamin ___ mcg PO DAILY 
15. FoLIC Acid 1 mg PO DAILY 
16. Pyridoxine 50 mg PO DAILY 
17. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  BuPROPion 150 mg PO DAILY  
5.  Carvedilol 12.5 mg PO BID  
6.  Cyanocobalamin ___ mcg PO DAILY  
7.  Fish Oil (Omega 3) 4000 mg PO DAILY  
8.  flaxseed    oral DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Lisinopril 2.5 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Mycophenolate Mofetil 1000 mg PO BID  
13.  PredniSONE 5 mg PO DAILY  
14.  Pyridoxine 50 mg PO DAILY  
15.  Rosuvastatin Calcium 40 mg PO QPM  
16.  Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___)  
17.  Vitamin D ___ UNIT PO DAILY  
18. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel unless your PCP/cardiologist tells 
you to continue.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Duodenal mass/ulcer
Acute blood loss anemia
Acute kidney injury

SECONDARY DIAGNOSES
Interstitial lung disease
Coronary artery disease
antiphospholipid syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for an episode of melena and drop in your 
hemoglobin.  
 
What was done for me while I was in the hospital?  
- You were imaged using an endoscope through your mouth and the 
mass in your duodenum was found to have a bleeding ulcer that 
was intervened upon to stop the bleeding.

What should I do when I leave the hospital?  
- You should go to all of your follow-up appointments and take 
your medications as prescribed on the discharge worksheet as 
they may have changed.
- In particular, do not take your Plavix until you have seen 
your primary care provider.
- Make sure you are imaged again in 4 weeks with a repeat 
procedure.
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___